US07566781B2
Methyl 4-(6-fluoropyridin-2-yloxy)benzenecarboxylate
2,6-Difluoropyridine (1.0 g), methyl 4-hydroxybenzenecarboxylate (1.32 g) and potassium carbonate (3.60 g) were suspended in acetonitrile (10 mL), and heated under reflux for 21 hours. Water (100 mL) was added to the reaction liquid, extracted with ethyl acetate (100 mL), and the organic layer was washed with aqueous 2 N sodium hydroxide solution (100 mL), water (100 mL) and saturated saline water (100 mL) in that order, dried with magnesium sulfate, and evaporated under reduced pressure to obtain a colorless oil. The resulting oil was purified through silica gel column chromatography (hexane/ethyl acetate=10/0 to 7/3) to obtain the entitled compound (1.48 g) as a colorless solid.

reactant | 2,6-Difluoropyridine | 1.0 g | FC1=NC(=CC=C1)F | C5H3F2N
reactant | methyl 4-hydroxybenzenecarboxylate | 1.32 g | OC1=CC=C(C=C1)C(=O)OC | C8H8O3
reactant | potassium carbonate | 3.60 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 100 mL | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | Methyl 4-(6-fluoropyridin-2-yloxy)benzenecarboxylate | 1.48 g | FC1=CC=CC(=N1)OC1=CC=C(C=C1)C(=O)OC | C13H10FNO3
